US07468236B2
A mixture of 26.2 g of 2-morpholinoethanol, 21.2 g of 2,2-bis(trifluoromethyl)propionic acid fluoride, 20.2 g of triethylamine, and 100 g of acetonitrile was stirred at 60° C. for 20 hours. This was followed by conventional aqueous work-up and purification by silica gel column chromatography. There was obtained 22.6 g of 2-morpholinoethyl 2,2-bis(trifluoromethyl)propionate (yield 70%).

reactant | 2-morpholinoethanol | 26.2 g | O1CCN(CC1)CCO | C6H13NO2
reactant | 2,2-bis(trifluoromethyl)propionic acid fluoride | 21.2 g | FC(C(C(=O)F)(C)C(F)(F)F)(F)F | C5H3F7O
reactant | triethylamine | 20.2 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 g | C(C)#N | C2H3N
product | 2-morpholinoethyl 2,2-bis(trifluoromethyl)propionate | 22.6 g, yield 70% | FC(C(C(=O)OCCN1CCOCC1)(C)C(F)(F)F)(F)F | C11H15F6NO3
